US06903092B2
A solution of N-[2-(S)-(3,4-dichlorophenyl)-4-hydroxybutyl]amine in DCM was combined with 1N NaOH solution. The mixture was cooled to 0° C. and a solution of 3-cyano-2-methoxy-1-naphthoyl chloride in DCM was added dropwise over 30 min. After stirring overnight at room temperature, the organic phase was concentrated and purified by column chromatography to afford N-[2-(S)-(3,4-dichlorophenyl)4-hydroxybutyl]-3-cyano-2-methoxy-1-naphthamide. 1H NMR (300 MHz, CDCl3) d 8.19 (s, 1H), 7.83-7.80 (d, 1H)), 7.66-7.50 (m, 3H), 7.43-7.38 (m, 2H), 7.17-7.14 (dd, 1H), 6.10 (t, 1H), 4.01 (s, 3H), 3.92-3.68 (m, 3H), 3.60-3.52 (m, 1H), 3.23-3.17 (m, 1H), 2.13-2.02 (m, 1H), 1.93-1.82 (m, 1H); MS APCl, m/z=443 (M+). N-[2-(S)-(3,4-Dichlorophenyl)-3-carboxypropyl]-3-cyano-2-methoxy-1-naphthamide To a solution of Jones Reagent (prepare from 2.734 g of CrO3, 2.3 mL of concentrated H2SO4 and 10 mL of water) (13 mL) in acetone (100 mL) was added a solution of N-[2-(S)-(3,4-Di-chlorophenyl)-4-hydroxybutyl]-3-cyano-2-methoxy-1-napthamide (7.53 g, 17 mmol) in acetone (100 mL) dropwise at 0° C. The mixture was stirred at 0° C. for 2 h. Isopropyl alcohol was added until a blue color was persisted. The mixture was stirred 15 min at room temperature and EtOAC/water was added. Combined organic layer was washed with saturated NaCl, dried over MgSO4, filtered and concentrated, following chromatography purification to give product as a yellow solid (6.99 g, 90%yield). 1H NMR (CDCl3) δ 8.19 (s, 1H), 7.84-7.81 (d, 1H), 7.65-7.41 (m, 5H), 7.19-7.15 (dd, 1H), 6.15 (t, 1H), 4.00 (t, 3H), 3.93-2H), 3.54-3.45 (m, 1H), 2.94-2.70 (m, 2H). MS (APCI) m/z 479.2 (M+Na).

reactant | N-[2-(S)-(3,4-dichlorophenyl)-4-hydroxybutyl]amine | ClC=1C=C(C=CC1Cl)[C@@H](CN)CCO | C10H13Cl2NO
reactant | NaOH | 1N | [OH-].[Na+]
reactant | 3-cyano-2-methoxy-1-naphthoyl chloride | C(#N)C=1C(=C(C2=CC=CC=C2C1)C(=O)Cl)OC | C13H8ClNO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[2-(S)-(3,4-dichlorophenyl)4-hydroxybutyl]-3-cyano-2-methoxy-1-naphthamide | ClC=1C=C(C=CC1Cl)[C@@H](CNC(=O)C1=C(C(=CC2=CC=CC=C12)C#N)OC)CCO | C23H20Cl2N2O3
